US04654452
A hexanes stream, conventionally produced in petroleum refining, comprising normal hexane, isohexanes, methylcyclopentane, and cyclohexane is isomerized to produce primarily cyclohexane and to recover normal hexane by first fractionating the hexanes stream in a first fractionation step in a manner and under conditions to produce a normal hexane-isohexane rich overhead stream and a methylcyclopentane-cyclohexane rich bottoms stream, the bottoms stream is isomerized in the presence of an isomerization catalyst and under conditions sufficient to maximize the conversion of methylcyclopentane to cyclohexane, the overhead from the first fractionation step and the effluent from the isomerization step is then fractionated in at least one stage of a second fractionation step in a manner and under conditions to produce separate streams, comprising isohexanes, normal hexane, cyclohexane, and unreacted methylcyclopentane and the methylcyclopentane is recycled to the isomerization step and/or the first fractionation step. Since an original hexane stream usually contains benzene, it is preferred that the original hexane stream be hydrogenated to convert the benzene to cyclohexane prior to passing the feed to the first fractionation step.

reactant | normal hexane | CCCCCC | C6H14
reactant | methylcyclopentane | CC1CCCC1 | C6H12
solvent | cyclohexane | C1CCCCC1 | C6H12
product | normal hexane isohexane | CCCCCC.CCCC(C)C | 2C6H14
